US06380430B1
A solution of 5.0 g of 3′-bromomethylbiphenyl-3-carbonitrile and 5 ml of triethyl phosphite are mixed together and slowly heated to 150°. The mixture is stirred at 150° for 6 h and after customary working up 6.05 g of diethyl 3′-cyanobiphenyl-3-ylmethylphosphonate (“BA”) are obtained. 150 mg of sodium hydride are added with ice-cooling and under nitrogen to a solution of 1.0 g of “BA” and 3-cyanobenzaldehyde in 20 ml of ethylene glycol dimethyl ether. The mixture is stirred for 4 hours, worked up in the customary manner and 0.93 g of 3′-[2-(3-cyanophenyl)vinyl]biphenyl-3-carbonitrile (“BB”) is obtained. After hydrogenation of 360 mg of “BB” with Pd-C, 5% in methanol, 360 mg of 3′-[2-(3-cyanophenyl)ethyl]biphenyl-3-carbonitrile (“DC”) are obtained. After reaction with hydroxylammonium chloride and hydrogenation with Raney nickel, the compound 3,-[2-(3-amidinophenyl)ethyl]biphenyl-3-carboxamidine, FAB 343

reactant | 3′-bromomethylbiphenyl-3-carbonitrile | 5.0 g | BrCC=1C=C(C=CC1)C1=CC(=CC=C1)C#N | C14H10BrN
reactant | triethyl phosphite | 5 ml | P(OCC)(OCC)OCC | C6H15O3P
reactant | diethyl 3′-cyanobiphenyl-3-ylmethylphosphonate | 6.05 g | C(#N)C=1C=C(C=CC1)C1=CC(=CC=C1)CP(OCC)(OCC)=O | C18H20NO3P
reactant | sodium hydride | 150 mg | [H-].[Na+]
reactant | 3-cyanobenzaldehyde | C(#N)C=1C=C(C=O)C=CC1 | C8H5NO
solvent | ethylene glycol dimethyl ether | 20 ml | COCCOC | C4H10O2
product | 3′-[2-(3-cyanophenyl)vinyl]biphenyl-3-carbonitrile | 0.93 g | C(#N)C=1C=C(C=CC1)C=CC=1C=C(C=CC1)C1=CC(=CC=C1)C#N | C22H14N2
